US08071581B2
Example 3-[1-(1-Methyl-azetidin-3-yl)-1H-pyrazol-4-yl]-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline
To 3-(1-azetidin-3-yl-1H-pyrazol-4-yl)-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline (194 mg, 0.4898 mmol) in dichloromethane (9 mL) was added formaldehyde (37% in water, 1.959 mmol, 147 uL). The solution was stirred at room temperature for 15 minutes and then sodium triacetoxyborohydride (260 mg, 1.22 mmol) was added. After 1 hour the solution was diluted with dichloromethane (6 mL) and washed with sodium bicarbonate (6 mL). The aqueous layer was extracted further with dichloromethane (6 mL). The combined dichloromethane layers were washed with brine (12 mL) and dried over Na2SO4. The filtrate was concentrated in vacuo onto silica gel and purified by flash chromatography (SiO2, CH2Cl2:CH3OH:NH4OH, 95:4.995:0.005-80:19.98:0.02) to return the title compound (69 mg, 35% yield). Analytical data presented in Table 2.

reactant | 3-(1-azetidin-3-yl-1H-pyrazol-4-yl)-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 0.4898 mmol, 194 mg | N1CC(C1)N1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C22H20N8
reactant | formaldehyde | 1.959 mmol, 147 uL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.22 mmol, 260 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 3-[1-(1-Methyl-azetidin-3-yl)-1H-pyrazol-4-yl]-6-(6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 69 mg, 35% yield | CN1CC(C1)N1N=CC(=C1)C=1C=NC2=CC=C(C=C2C1)CC1=NN=C2N1N=C(C=C2)C | C23H22N8
